US04460767
To 200 ml of acetone were added 10.0 g of D-xylose, 138 mg of cupric fluoride dihydrate and 1 ml of a 2 mole/l solution of hydrogen chloride in dioxane, and the mixture was stirred for 7 hours under reflux on a warm-water bath at 60° C. The refluxing solvent was continuously dried with 20 g of molecular sieves 3A (produced by Wako Pure Chemical Ind., Ltd.) which was placed between the reaction vessel and the cooling tube. After the conclusion of the reaction, a small amount of aqueous sodium hydrogencarbonate was added to the reaction mixture and the acetone was distilled off under reduced pressure. The residue was dissolved in benzene, and the solution was washed with aqueous sodium hydrogencarbonate and water, and dried over anhydrous magnesium sulfate. When the benzene was distilled off under reduced pressure, there was obtained 12.8 g (83.7%) of 1,2:3,5-di-O-isopropylidene-α-D-xylofuranose as a residue in the form of an oily material (purity of not less than 97%). The compound showed a boiling point of 94° to 97° C./3 mmHg.

reactant | acetone | 200 ml | CC(=O)C | C3H6O
reactant | D-xylose | 10.0 g | O=C[C@H](O)[C@@H](O)[C@H](O)CO | C5H10O5
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | dioxane | O1CCOCC1 | C4H8O2
product | 1,2:3,5-di-O-isopropylidene-α-D-xylofuranose | 12.8 g, 83.7% | CC1(OC[C@@H]2[C@H](O1)[C@@H]3[C@H](O2)OC(O3)(C)C)C | C11H18O5
